US08791161B2
5-chloro-2-((pyrimidin-2-ylmethyl)thio)aniline
Following General Procedure A, the title compound (284 mg, 39%) was prepared from 2-amino-4-chlorobenzenethiol (529 mg, 3.33 mmol), 2-(chloromethyl)pyrimidine (366 mg, 2.22 mmol) and K2CO3 (1.53 g, 11.09 mmol) in DMF (10 ml).

reactant | 2-amino-4-chlorobenzenethiol | 3.33 mmol, 529 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 2-(chloromethyl)pyrimidine | 2.22 mmol, 366 mg | ClCC1=NC=CC=N1 | C5H5ClN2
reactant | K2CO3 | 11.09 mmol, 1.53 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-chloro-2-((pyrimidin-2-ylmethyl)thio)aniline | 284 mg, 39% | ClC=1C=CC(=C(N)C1)SCC1=NC=CC=N1 | C11H10ClN3S
